US04060528
To a stirred and refluxing Grignard-complex, previously prepared starting from 7.2 parts of magnesium and 81.4 parts of 2-(p-bromobenzyloxy)tetrahydropyran in 200 parts of dry tetrahydrofuran, is added dropwise a solution of 32.7 parts of 2-thiophenecarbonitrile in 70 parts of dry tetrahydrofuran (exothermic reaction: reflux temperature is maintained). Upon completion, stirring at reflux is continued for 4 hours. The reaction mixture is cooled and decomposed with 150 parts of a saturated ammonium chloride solution at about 15° C. The whole is poured onto water and the product is extracted with ether. The organic layer is washed four times with water, dried, filtered and acidifed with gaseous hydrogen chloride: an oil is separated. The ether is decanted and the oily product is dissolved in 300 parts of water and 150 parts of concentrated hydrochloric acid solution. The solution is stirred with activated charcoal, filtered and the filtrate is stirred and refluxed for 10 minutes. The product is extracted with chloroform. The latter is washed with water, dried, filtered and evaporated. The residue is distilled, yielding α-hydroxy-p-tolyl 2-thienyl ketone; bp. 180°-190° C at 0.2 mm. pressure.

reactant | magnesium | [Mg] | Mg
reactant | 2-(p-bromobenzyloxy)tetrahydropyran | BrC1=CC=C(COC2OCCCC2)C=C1 | C12H15BrO2
reactant | 2-thiophenecarbonitrile | S1C(=CC=C1)C#N | C5H3NS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-hydroxy-p-tolyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)CO | C12H10O2S
